US05030640
A solution of 325 mg of (R)-2-(tetrazolo[1,5-a]pyrid-6-yl)oxirane and 300 mg of (R)-α-methyltryptamine in 6 ml of absolute ethanol is heated at reflux under nitrogen for two hours. The reaction mixture is concentrated and the residue purified by silica gel chromatography to give (R)-α-[[(1(R)-methyl-2-(1H-indol-3-yl)ethyl)amino]-methyl]tetrazolo[1,5-a]pyridine-6-methanol.

reactant | (R)-2-(tetrazolo[1,5-a]pyrid-6-yl)oxirane | 325 mg | N=1N=NN2C1C=CC(=C2)[C@H]2OC2 | C7H6N4O
reactant | (R)-α-methyltryptamine | 300 mg | C[C@@H](N)CC1=CNC2=CC=CC=C12 | C11H14N2
solvent | ethanol | 6 ml | C(C)O | C2H6O
product | (R)-α-[[(1(R)-methyl-2-(1H-indol-3-yl)ethyl)amino]-methyl]tetrazolo[1,5-a]pyridine-6-methanol | C[C@H](CC1=CNC2=CC=CC=C12)NC[C@H](O)C=1C=CC=2N(C1)N=NN2 | C18H20N6O
